US06514485B1
—400 ml of acetone cooled to 0° C. are added, under nitrogen stream, with 92.3 g of 2,4,6-trichloro-1,3,5-triazine, then with 38 g of tert-butylamine, always keeping the temperature at about 0° C. After keeping the resulting mixture at this temperature for 30 minutes, 66.7 g of a 30% NaOH aqueous solution, then 400 ml of water are dropped therein, and the resulting mixture is stirred for 1 hour at 0° C. After filtration and washing with water to neutral pH, the resulting precipitate is dried to obtain 108 g of 2-tert-butylamino-4,6-dichloro-1,3,5-triazine. M.p. 129-30° C.

reactant | acetone | —400 ml | CC(=O)C | C3H6O
reactant | 2,4,6-trichloro-1,3,5-triazine | 92.3 g | ClC1=NC(=NC(=N1)Cl)Cl | C3Cl3N3
reactant | tert-butylamine | 38 g | C(C)(C)(C)N | C4H11N
reactant | NaOH | [OH-].[Na+]
solvent | water | 400 ml | O | H2O
product | 2-tert-butylamino-4,6-dichloro-1,3,5-triazine | 108 g | C(C)(C)(C)NC1=NC(=NC(=N1)Cl)Cl | C7H10Cl2N4
